US06794384B1
3-Methoxycinnamyl Alcohol
Lithium aluminium hydride (213 mg; 5.5 mmol) was added portionwise to anhydrous THF (10 ml) at 0° C. To this a solution of 3-methoxycinnamic acid (2 g; 11 mmol) in THF (5 ml) was added. The reaction was left to stir at 0° C. for 10 min and then allowed to reach ambient temperature. The reaction mixture was quenched with 2M aqueous sodium hydroxide (15 ml) and the aqueous layer was extracted with ether (3×15 ml). The combined organic layers were washed with 2M hydrochloric acid (3×15 ml), brine (3×15 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel, and the product was isolated as an oil (222 mg: 12%). IR (cm−1; KBr): (3400, OH) (1400; C═C) (1250; OCH3); 1H-NMR CDCl3: (3.8, s; 3H) (4.3, dd; 2H) (6.3, m; 1H) (6.6, d; 1H) (6.8, dd; 1H) (6.9, t; 1H) (7.0, d; 1H) (7.2, t: 1H); 13C-NMR CDCl3: 55.3, 63.6, 111.9, 113.4, 119.2, 128.9, 129.6, 131.0, 138.2, 158.2, 159.9; Mass Spectrum (M+) m/e: 164.

reactant | Lithium aluminium hydride | 5.5 mmol, 213 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-methoxycinnamic acid | 11 mmol, 2 g | COC=1C=C(C=CC(=O)O)C=CC1 | C10H10O3
reactant | KBr | [K+].[Br-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Methoxycinnamyl Alcohol | COC=1C=C(C=CCO)C=CC1 | C10H12O2
